US05580986
1. 1,1,7-Trichloro-1-hepten-3-one
100 g (0.62 mol) 5-Chlorovaleroyl chloride was added dropwise to 78.53 g (0.589 mmol) aluminium chloride in 150 ml methylene chloride at room temperature. After stirring for 1 hour, 45 ml (0.558 mol) 1,1-dichloroethylene in 25 ml methylene chloride was added dropwise. Under ice-cooling 100 ml water was added dropwise and solid material suction filtered on Celite. The filtrate was washed with water and the organic phase dried and concentrated. The residue was distilled in a rotary evaporator.

reactant | 5-Chlorovaleroyl chloride | 0.62 mol, 100 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | aluminium chloride | 0.589 mmol, 78.53 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,1-dichloroethylene | 0.558 mol, 45 ml | ClC(=C)Cl | C2H2Cl2
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1,1,7-Trichloro-1-hepten-3-one | ClC(=CC(CCCCCl)=O)Cl | C7H9Cl3O
